US09351965B2
Synthesis of ethyl 3(2-methylpyridin-4-yl)-1-trityl-4H-indazole-5-carboxylate
ethyl 3-bromo-1-trityl-1H-indazole-5-carboxylate (510 mg, 1.0 mol) was added to a vial containing 2-methylpyridin-4-ylboronic acid (128 mg, 1.04 mol) and tetrakis(triphenylphosphine)palladium (140 mg, 0.104 mol). After purging the vial with nitrogen gas, dioxane (5 mL) and 2M sodium carbonate (5 mL) was added to the vial respectively. The reaction mixture was stirred and was heated to 80° C. for overnight. Upon completion, the mixture was concentrated under vacuo. The mixture was extracted using ethyl acetate (3×100 mL). The extracts were combined and dried using anhydrous sodium sulfate. The resulting mixture was purified using flash chromatography to give the desired compound in 85% yield.

reactant | ethyl 3-bromo-1-trityl-1H-indazole-5-carboxylate | 1.0 mol, 510 mg | BrC1=NN(C2=CC=C(C=C12)C(=O)OCC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H23BrN2O2
reactant | 2-methylpyridin-4-ylboronic acid | 1.04 mol, 128 mg | CC1=NC=CC(=C1)B(O)O | C6H8BNO2
catalyst | tetrakis(triphenylphosphine)palladium | 0.104 mol, 140 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3(2-methylpyridin-4-yl)-1-trityl-4H-indazole-5-carboxylate | 85% yield | CC1=NC=CC(=C1)C=1NN(C2=CC=C(CC12)C(=O)OCC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H31N3O2
